US08138187B2
Phenylacetonitrile (11.7 g, 0.1 mol) and methyl acrylate (47 ml, 0.5 mol) were initially introduced into tert-butanol (60 ml) and the mixture was heated to the boiling point. The heat source was then removed. Triton B (benzyltrimethylammonium hydroxide, 40 per cent in methanol, 15.2 ml), dissolved in tert-butanol (23 ml), was added dropwise, first slowly, later swiftly. After the dropwise addition, the mixture was boiled under reflux for 4 h. The reaction mixture was cooled to room temperature overnight.—For working up, toluene (100 ml) and water (70 ml) were added to the mixture. The organic phase was separated off and washed with water (1×70 ml) and saturated sodium chloride solution (1×50 ml). After drying with Na2SO4, the solvent was distilled off in a fume cupboard because of the severe odour nuisance. Purification was carried out by a bulb tube distillation under a pressure of 7.8×10−2 mbar at a temperature of 235° C. It was possible to isolate the desired 4-cyano-4-phenylheptanedioic acid dimethyl ester in a yield of 21.45 g (72%) as a colourless, viscous substance.

reactant | Phenylacetonitrile | 0.1 mol, 11.7 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | methyl acrylate | 0.5 mol, 47 ml | C(C=C)(=O)OC | C4H6O2
solvent | tert-butanol | 60 ml | C(C)(C)(C)O | C4H10O
product | 4-cyano-4-phenylheptanedioic acid dimethyl ester | COC(CCC(CCC(=O)OC)(C1=CC=CC=C1)C#N)=O | C16H19NO4
